US08022062B2
Using a method similar to the General Procedure 5-4, combine 6-amino-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.1 g, 0.35 mmol), 6-bromomethyl-benzothiazole (80 mg, 0.35 mmol), and potassium carbonate (47.0 mg, 0.35 mmol) in anhydrous DMF (1 mL) in a sealed tube. Heat at 150° C. for 3 h to obtain 6-[(benzothiazol-6-yl-methyl)-amino]-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a colorless oil.

reactant | 6-amino-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.35 mmol, 0.1 g | NC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)Cl | C12H12ClF3N2O
reactant | 6-bromomethyl-benzothiazole | 0.35 mmol, 80 mg | BrCC1=CC2=C(N=CS2)C=C1 | C8H6BrNS
reactant | potassium carbonate | 0.35 mmol, 47.0 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-[(benzothiazol-6-yl-methyl)-amino]-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | S1C=NC2=C1C=C(C=C2)CNC2=C(C=CC=1CCN(CCC12)C(C(F)(F)F)=O)Cl | C20H17ClF3N3OS
